* C:\Users\mkebbi\Documents\LTspiceXVII\lab2.asc
R1 N003 out 50
C1 N004 N003 10µ
R2 +10V N004 22508.7
R3 N004 -10V 1263.2
Q1 N001 N004 N007 0 2N4401
R4 +10V N001 1200
R5 N007 -10V 43.182
C2 N002 N001 10µ
R6 N002 0 1200
V2 +10V 0 10
V3 -10V 0 -10
V4 N005 0 SINE(0V 0.25V 2000 1ms 1ms 0.5ms)
C3 N006 N005 10µ
R8 +10V N006 22410
R9 N006 -10V 25783
Q2 +10V N006 N008 0 2N4401
R11 N008 -10V 2410
C4 out +10V 10µ
R12 out 0 951.8
.model NPN NPN
.model PNP PNP
.lib C:\Users\mkebbi\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 5ms 0
.backanno
.end
